US05066653
5-Methyl-6-[4-(4-oxo-1,4-dihydropyridin-1-yl)phenyl]-4,5-dihydro-3(2H)-pyridazinone
A stirred mixture of 6-(4-aminophenyl)-5-methyl-4,5-dihydro-3(2H)-pyridazinone (1.0 g), 4H-pyran-4-one (0.52 g), water (20 ml), and concentrated hydrochloric acid (0.41 ml) was heated under reflux for 31/2 hours. The resultant solid was dissolved in the minimum of hot water and the solution was neutralised with aqueous ammonia to give the crude product, 1.16 g, m.p. 249-256° C. The product was recrystallised first from water to which a little 2N NaOH was added, and then from water alone to give the pure title compound, 0.82 g, m.p. 254-256° C. (after melting and resolidifying at about 150° C.).

reactant | 6-(4-aminophenyl)-5-methyl-4,5-dihydro-3(2H)-pyridazinone | 1.0 g | NC1=CC=C(C=C1)C=1C(CC(NN1)=O)C | C11H13N3O
reactant | 4H-pyran-4-one | 0.52 g | O1C=CC(C=C1)=O | C5H4O2
reactant | hydrochloric acid | 0.41 ml | Cl | ClH
reactant | ammonia | N | H3N
solvent | water | O | H2O
solvent | water | 20 ml | O | H2O
product | 5-Methyl-6-[4-(4-oxo-1,4-dihydropyridin-1-yl)phenyl]-4,5-dihydro-3(2H)-pyridazinone | CC1CC(NN=C1C1=CC=C(C=C1)N1C=CC(C=C1)=O)=O | C16H15N3O2
